US07842688B2
i) tert-Butyl 3-(4-bromo-3-isobutyrylaminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Example 18e, 4.30 g of tert-butyl 3-(3-amino-4-bromobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate are reacted with 0.78 ml of isobutyryl chloride. The title compound is obtained as a colourless oil. Rt=6.12.

reactant | tert-butyl 3-(3-amino-4-bromobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 4.30 g | NC=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1Br | C34H43BrN2O6
reactant | isobutyryl chloride | 0.78 ml | C(C(C)C)(=O)Cl | C4H7ClO
product | tert-Butyl 3-(4-bromo-3-isobutyrylaminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | BrC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)NC(C(C)C)=O | C38H49BrN2O7
